US04234585
In a manner analogous to that described in Example 9, 4-methyl-6-hydroxy-2-oxo-1,2-dihydroquinoline is reacted with 3-[4-(2-propoxybenzyl)-piperazin-1-yl]-propyl chloride. There is obtained 4-methyl-6-{3-[4-(2-propoxybenzyl)-piperazin-1-yl]-propoxy}-2-oxo-1,2-dihydroquinoline in a yield of 53% of theory in the form of an oily base. The corresponding hydrochloride is obtained from an acetone solution of the base, by the addition of ethereal hydrochloric acid, in amorphous fomrm with a melting point of about 140°-145° C.

reactant | 4-methyl-6-hydroxy-2-oxo-1,2-dihydroquinoline | CC1=CC(NC2=CC=C(C=C12)O)=O | C10H9NO2
reactant | 3-[4-(2-propoxybenzyl)-piperazin-1-yl]-propyl chloride | C(CC)OC1=C(CN2CCN(CC2)CCCCl)C=CC=C1 | C17H27ClN2O
product | 4-methyl-6-{3-[4-(2-propoxybenzyl)-piperazin-1-yl]-propoxy}-2-oxo-1,2-dihydroquinoline | yield of 53% | CC1=CC(NC2=CC=C(C=C12)OCCCN1CCN(CC1)CC1=C(C=CC=C1)OCCC)=O | C27H35N3O3
